data/core_train_final.csv
"O=C(OC)CCCCCCC/C=C\[C:10]([H:11])([H])/C=C\CCCCC.O=C(OC)CCCCCCC([H])(O[O:20])/C=C\C/C=C\CCCCC>>O=C(CCCCCCC/C=C\[C:10]([H])/C=C\CCCCC)OC.O=C(CCCCCCC([H])(O[O:20][H:11])/C=C\C/C=C\CCCCC)OC 20-20,11;10,11-11,20;10,11-10",Room Temperature,Propagation,abstraction
"[Cl:1][Cl:2].[He]>>[He].[Cl:1].[Cl:2] 1,2-1; 1,2-2",Light,Initiation,homolyze
"CC(C)(C)C.[Cl:20][Cl:21].[He]>>[He].CC(C)(C)C.[Cl:20].[Cl:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"[CH2:10]Cl.[Cl:20]>>[CH2:10](Cl)[Cl:20] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[CH:21]=[CH2:20].C[CH:10]CCC(C)C>>C[CH:21][CH2:20][CH:10](C)CCC(C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:7][Cl:6].[CH3:4][C:3]([CH3:5])[CH:2]=[CH2:1].[Cl:8]>>[H:7][Cl:6].[CH3:4][C:3]([CH3:5])([CH:2]=[CH2:1])[Cl:8] 8-3,8;3-3,8",Room Temperature,Termination,recombine
"[H:1][C:2]([H:3])([H:4])[H:5].[I:6].[Ar]>>[Ar].[H:3][C:2]([H:4])[H:1].[H:5][I:6] 6-6,5;2,5-6,5;2,5-2",Heat,Propagation,abstraction
"[CH3:1][C:2]1[CH:12]2[CH2:13][CH:8]([C:9]2([CH3:10])[CH3:11])[CH2:7][CH:3]1[O:4][O:5][O:6]>>[CH3:10][C:9]1([CH:8]2[CH2:13][CH:12]1[C:2]3([CH:3]([CH2:7]2)[O:4][O:5][O:6]3)[CH3:1])[CH3:11] 2-2,6; 6-2,6",Room Temperature,Termination,recombine
"CC(CC[CH:20]=[C:21](C)C)[CH:10]CC(C(=O)OC)C(=O)OC>>CC1CC[CH:20]([CH:10]1CC(C(=O)OC)C(=O)OC)[C:21](C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[CH2:20]([O:10])[Cl:21]>>[CH2:20]=[O:10].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"[CH3:1][O:2][C:3](=[O:24])[C:4]1[CH2:5][CH2:6][CH2:7][N:8]2[CH:9]1[CH:10]([CH2:20][CH2:21][C:22]2=[O:23])[N:11]3[CH:12]=[CH:13][C:14]4=[C:15]3[CH:16]=[CH:17][CH:18]=[CH:19]4>>[CH3:1][O:2][C:3](=[O:24])[C:4]12[CH2:5][CH2:6][CH2:7][N:8]3[CH:9]1[CH:10]([CH2:20][CH2:21][C:22]3=[O:23])[N:11]4[CH:12]2[CH:13][C:14]5=[C:15]4[CH:16]=[CH:17][CH:18]=[CH:19]5 4-4,12; 12,13-4,12; 12,13-13",Room Temperature,Propagation,addition
"[H:20][C:21](C1=CC=CC=C1)(Cl)Cl.[Cl:10]>>[H:20][Cl:10].C1=CC=C(C=C1)[C:21](Cl)Cl 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:1][O:2][O:3][CH3:4].[Ar]>>[Ar].[CH3:1][O:2].[CH3:4][O:3] 3,2-3;3,2-2",Heat,Initiation,homolyze
"[H:4][C:2]([CH3:1])([CH3:3])[C:5]1=[CH:6][CH:7]=[CH:8][CH:9]=[CH:10]1.[Br:11][Br:12].[He]>>[He].[H:4][Br:11].[CH3:1][C:2]([CH3:3])[C:5]1=[CH:6][CH:7]=[CH:8][CH:9]=[CH:10]1.[Br:12] 2,4-2; 2,4-11,4; 12,11-4,11; 12,11-12",Light,Initiation,homolyze
"[CH3:9][C:8]1([CH:11]2[CH:7]1[CH:6][C:2]([CH2:13][CH2:12]2)([CH3:1])[CH2:3][C:4]#[N:5])[CH3:10]>>[CH3:9][C:8]([CH3:10])[CH:11]1[CH2:12][CH2:13][C:2]([CH:6]=[CH:7]1)([CH3:1])[CH2:3][C:4]#[N:5] 6-6,7; 7,8-6,7; 7,8-8",Room Temperature,Propagation,retroaddition
"C[C:21](C)(C#N)/[N:20]=[N:10]/[C:11](C)(C)C#N>>C[C:21](C)C#N.C[C:11](C)C#N.[N:20]#[N:10] 10,11-10,20;10,11-11;20,21-10,20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][CH3:21].[Br:10].[Ar]>>[Ar].[H:20][Br:10].[CH3:21] 10-10,20;20,21-10,20;20,21-21",Heat,Propagation,abstraction
"C1=CC=CC=[C:20]1.[CH2:10]=[CH:11]C>>C1=CC=CC=[C:20]1[CH2:10][CH:11]C 20-10,20;10,11-10,20;10,11-11",Room Temperature,Propagation,addition
"CC1CCCC(=C1)[CH2:10].[Br:20][Br:21]>>CC1CCCC(=C1)[CH2:10][Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C=CC[C@H](O[Si](C(C)(C)C)(C)C)CC(C[C@@H](O[CH:21]([H:20])[C:22]1=[CH:23][CH:24]/C(C=C1)=[O+]/C)CC[C@@H](C)[C@H](O[Si](C(C)(C)C)(C)C)[C@H](C)COCC2=CC=CC=C2)=O.[O-]C3=C(C#N)C(C#N)=C([O:10])C(Cl)=C3Cl>>C=CC[C@H](O[Si](C(C)(C)C)(C)C)CC(C[C@@H](O/[CH:21]=[C:22]4[CH:23]=[CH:24]/C(C=C/4)=[O+]/C)CC[C@@H](C)[C@H](O[Si](C(C)(C)C)(C)C)[C@H](C)COCC5=CC=CC=C5)=O.[O-]C6=C(C#N)C(C#N)=C([O:10][H:20])C(Cl)=C6Cl 10-10,20;20,21-10,20;20,21-21,22;22,23-21,22;22,23-23,24;24-23,24",Room Temperature,Termination,abstraction
"[CH2:20]=[CH:21]N1CCCC1=O.C1CC(=O)N(C1)[CH:10]CO>>C1CC(=O)N(C1)[CH:21][CH2:20][CH:10](CO)N2CCCC2=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:3][C:2]([CH3:1])[CH2:4][Br:5].[H:6][Br:7]>>[H:3][C:2]([H:6])([CH3:1])[CH2:4][Br:5].[Br:7] 2-2,6;7,6-2,6;6,7-7",Room Temperature,Propagation,abstraction
"C[CH:10]Cl.[Cl:20][Cl:21]>>C[CH:10](Cl)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C1=CC=C(C=C1)C[O].C1=CC=C(C=C1)C[O:21][O:20][O]>>C1=CC=C(C=C1)C[O].C1=CC=C(C=C1)C[O:21].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:5][C:4]1[CH:6]=[CH:7][C:8](=[C:9]([C:10]2=[CH:11][CH:12]=[CH:13][CH:14]=[CH:15]2)[C:16]3=[CH:17][CH:18]=[CH:19][CH:20]=[CH:21]3)[C:2](=[CH:3]1)[H:1]>>[H:5][C:4]1=[CH:3][C:2]([C:8](=[C:9]([C:10]2=[CH:11][CH:12]=[CH:13][CH:14]=[CH:15]2)[C:16]3=[CH:17][CH:18]=[CH:19][CH:20]=[CH:21]3)[CH:7]=[CH:6]1)[H:1] 4-3,4; 2,3-3,4; 2,3-2",Room Temperature,Propagation,resonance
"C1CC(=O)[N:20](C1=O)[Br:21].[He]>>[He].C1CC(=O)[N:20]C1=O.[Br:21] 20,21-20;20,21-21",Light,Initiation,homolyze
